US03998951
A mixture of 11 ml of pyridine in 340 ml of 2 normal aqueous sodium hydroxide was heated to the reflux temperature and to the hot solution was added in one portion 16.3 g of 2-(4-methylbenzamido)benzamide. The mixture was maintained at reflux temperature for 15 minutes, then poured into 1000 ml of ice. The cold mixture was acidified with concentrated hydrochloric acid and the precipitate was cooled to give 14.1 g of white 2-(4-methylphenyl)-quinazolin-4(3H)-one, m.p. 242°-243.5° (from ethanol).

reactant | pyridine | 11 ml | N1=CC=CC=C1 | C5H5N
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
reactant | 2-(4-methylbenzamido)benzamide | 16.3 g | CC1=CC=C(C(=O)NC2=C(C(=O)N)C=CC=C2)C=C1 | C15H14N2O2
product | 2-(4-methylphenyl)-quinazolin-4(3H)-one | 14.1 g | CC1=CC=C(C=C1)C1=NC2=CC=CC=C2C(N1)=O | C15H12N2O
